US05362879
A solution of methyl [3-(acetylamino)phenoxy]acetate (1.00 g, 4.5 mmol) in dry THF (20 mL) was added dropwise to a solution of LDA (0.53 g, 5 mmol) in dry THF (5 mL) maintained at about -78° C. under an atmosphere of N2. The mixture was warmed to about 0° C. and stirred about 5 minutes, cooled to about -78° C. and a solution of 2-bromomethyl-4,5-diphenyloxazole (1.41 g, 4.5 mmol) in THF (10 mL) added dropwise. The solution was allowed to warm to room temperature, stirred for about 18 hours and diluted with a mixture of saturated NH4Cl solution and Et2O. The organic phase was separated, washed with H2O and saturated NaCl solution, and dried over MgSO4. The solvent was evaporated and the residue chromatographed on a column of silica gel using a mixture of EtOAc and hexanes (13:7) as eluent to give methyl [3 -[N-acetyl-[(4,5-diphenyl-2-oxazolyl)methyl]amino]phenoxy]acetate (0.85 g, 42%). IR (Film) 1750 (CO2CH3), 1670 (NCOCH3) cm-1 ; 1H NMR (CDCl3) δ1.92 (3H, s, COCH3), 3.70 (3H, s, CO2CH3), 4.55 (2H, s, OCH2), 5.10 (2H, s, NCH2) 6.75-6.95 (3H, m, aromatic H), 7.20-7.40 (7H, m, aromatic H), 7.45-7.60 (4H, m, aromatic H); MS m/z 457 (MH+).

reactant | methyl [3-(acetylamino)phenoxy]acetate | 4.5 mmol, 1.00 g | C(C)(=O)NC=1C=C(OCC(=O)OC)C=CC1 | C11H13NO4
reactant | LDA | 5 mmol, 0.53 g | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromomethyl-4,5-diphenyloxazole | 4.5 mmol, 1.41 g | BrCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12BrNO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
product | methyl [3 -[N-acetyl-[(4,5-diphenyl-2-oxazolyl)methyl]amino]phenoxy]acetate | 0.85 g, 42% | C(C)(=O)N(C=1C=C(OCC(=O)OC)C=CC1)CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N2O5
